US07855292B2
E. (1R,2S)-[2-(tert-Butyl-dimethyl-silyloxy)-2-(4-chloro-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester
To a solution of (2R,3R)-3-(tert-butyl-dimethyl-silyloxy)-3-(4-chloro-phenyl)-2-methyl-propionic acid (0.93 g, 2.8 mmol) in THF (30 mL) at 0° C. was added Et3N (0.438 mL, 3.1 mmol) followed by ethyl chloroformate (0.30 mL, 3.1 mmol). The solution was stirred for 1 h at 0° C., and a solution of NaN3 (552 mg, 8.5 mmol) in water (10 mL) was added. The reaction solution was stirred for 4 h with warming to rt. The mixture was poured into water and extracted with Et2O (3×). The combined organic extracts were dried (MgSO4) and concentrated to afford the crude acyl azide. A mixture of the acyl azide, tert-butanol (10 mL), and toluene (20 mL) was heated at reflux for 12 h. The reaction mixture was cooled and concentrated, and the residue was purified by flash chromatography (EtOAc/hexanes) to provide the desired product as a colorless oil (354 mg, 31%). 1H NMR (400 MHz, CDCl3): 7.28 (s, 4H), 4.90 (br s, 1H), 4.60 (br d, J=8.0, 1H), 3.77-3.65 (m, 1H), 1.46 (s, 9H), 0.94 (s, 9H), 0.88 (d, J=6.8, 3H), 0.06 (s, 3H), −0.13 (s, 3H).

reactant | (2R,3R)-3-(tert-butyl-dimethyl-silyloxy)-3-(4-chloro-phenyl)-2-methyl-propionic acid | 2.8 mmol, 0.93 g | C(C)(C)(C)[Si](O[C@H]([C@H](C(=O)O)C)C1=CC=C(C=C1)Cl)(C)C | C16H25ClO3Si
reactant | Et3N | 3.1 mmol, 0.438 mL | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.1 mmol, 0.30 mL | ClC(=O)OCC | C3H5ClO2
reactant | NaN3 | 8.5 mmol, 552 mg | [N-]=[N+]=[N-].[Na+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | (1R,2S)-[2-(tert-Butyl-dimethyl-silyloxy)-2-(4-chloro-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 354 mg, 31% | C(C)(C)(C)OC(N[C@@H]([C@H](C1=CC=C(C=C1)Cl)O[Si](C)(C)C(C)(C)C)C)=O | C20H34ClNO3Si
